US04229449
To a solution of N-benzylamino-2-hydroxy-3-(2-methoxy-phenoxy)-3-phenyl-propylamine (3.5 g) in CH2Cl2 (60 ml), NaOH (0.6 g) and water (16 ml) were added at 0° C. The whole was cooled to -50° C. and chloroacetyl chloride (1.1 ml) diluted in CH2Cl2 (10 ml) was added dropwise. The organic extracts were combined and washed with a saturated solution of NaCl, drying was carried out over Na2SO4 and the solution was then evaporated to dryness, so obtaining N-benzyl-N-chloroacetyl-2-hydroxy-3-(2-methoxy-phenoxy)-3-phenylpropylamine (4.0 g; yield 93%) as an oil, chromatographyically pure, which is used as such.

reactant | N-benzylamino-2-hydroxy-3-(2-methoxy-phenoxy)-3-phenyl-propylamine | 3.5 g | C(C1=CC=CC=C1)NNCC(C(C1=CC=CC=C1)OC1=C(C=CC=C1)OC)O | C23H26N2O3
reactant | NaOH | 0.6 g | [OH-].[Na+]
reactant | water | 16 ml | O | H2O
reactant | chloroacetyl chloride | 1.1 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | CH2Cl2 | 60 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | N-benzyl-N-chloroacetyl-2-hydroxy-3-(2-methoxy-phenoxy)-3-phenylpropylamine | 4.0 g, yield 93% | C(C1=CC=CC=C1)N(C(CCl)=O)CC(C(C1=CC=CC=C1)OC1=C(C=CC=C1)OC)O | C25H26ClNO4
